US08603947B2
Step 7: Synthesis of 4-oxobicyclo[3.2.1]oct-2-en-2-yl 2-methyl-3-methylthio-4-(pentafluoroethyl)benzoate
235 mg (0.783 mmol) of 2-methyl-3-(methylthio)-4-(pentafluoroethyl)benzoic acid were introduced into 20 ml of dry dichloromethane and admixed in succession with 129 mg (1.02 mmol) of oxalyl chloride and also with two drops of N,N-dimethyl-formamide. After the end of evolution of gas, the mixture was heated under reflux for another 10 minutes. Then, the contents were cooled and concentrated on a rotary evaporator. The residue was taken up in 20 ml of dry dichloromethane and admixed with 119 mg (0.861 mmol) of bicyclo[3.2.1]octane-2,4-dione and a catalytic amount of DMAP. Then 158 mg (1.57 mmol) of triethylamine were added dropwise. The mixture was stirred at RT for 16 hours. For working up, 3 ml of 1N hydrochloric acid were added. Following phase separation, the organic phase was freed from the solvent and the residue, finally, was purified by chromatography. This gave 280 mg of product with a purity of 90% by weight.

reactant | 2-methyl-3-(methylthio)-4-(pentafluoroethyl)benzoic acid | 0.783 mmol, 235 mg | CC1=C(C(=O)O)C=CC(=C1SC)C(C(F)(F)F)(F)F | C11H9F5O2S
reactant | oxalyl chloride | 1.02 mmol, 129 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | bicyclo[3.2.1]octane-2,4-dione | 0.861 mmol, 119 mg | C12C(CC(C(CC1)C2)=O)=O | C8H10O2
reactant | triethylamine | 1.57 mmol, 158 mg | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
catalyst | N,N-dimethyl-formamide | two drops | CN(C=O)C | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-oxobicyclo[3.2.1]oct-2-en-2-yl 2-methyl-3-methylthio-4-(pentafluoroethyl)benzoate | CC1=C(C(=O)OC=2C3CCC(C(C2)=O)C3)C=CC(=C1SC)C(C(F)(F)F)(F)F | C19H17F5O3S
